US05591752
11-[(Phenylsulfonyl)aminocarbonyl]methylthio-2-(quinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine: (Exemplary compound 160)
11-Carboxymethylthio-2-(quinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine and benzensulfonamide were used and reacted in the same manner as in Example 39 to obtain the title compound.

reactant | 11-Carboxymethylthio-2-(quinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine | C(=O)(O)CSC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)OCC2=NC3=CC=CC=C3C=C2 | C26H21NO4S
reactant | benzensulfonamide | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
product | 11-[(Phenylsulfonyl)aminocarbonyl]methylthio-2-(quinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine | C1(=CC=CC=C1)S(=O)(=O)NC(=O)CSC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)OCC2=NC3=CC=CC=C3C=C2 | C32H26N2O5S2
